US08278441B2
N-(3-((4aS,7aS)-2-Amino-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-4-fluorophenyl)-5-fluoropicolinamide
A solution of N-(3-((4aS,7aS)-2-benzamido-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-4-fluorophenyl)-5-fluoropicolinamide (23.7 g 40.8 mmol), o-methylhydroxylamine hydrochloride (34.4 g, 412 mmol) and pyridine (33.3 mL) in ethanol (735 mL) is heated to 50° C. for 4 h. The mixture is concentrated. The residue is washed twice with methyl tert-butyl ether (2×250 mL) and poured into a saturated aqueous solution of sodium bicarbonate (453 mL). The suspension is shaken for 5 min and extracted with dichloromethane (1×1 L and 2×0.5 L). The organic layer is washed with water (0.5 L) dried over magnesium sulfate and the solvent is removed under reduced pressure to afford a solid. Additional solid is obtained from the aqueous phase by filtration. The solids are combined and triturated with water (300 mL) in an ultrasound bath for 30 min. The suspension is filtered off, washed with water, and dried under vacuum to give title compound (17.3 g, 100%). ES/MS m/e: 391 (M+1).

reactant | N-(3-((4aS,7aS)-2-benzamido-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-4-fluorophenyl)-5-fluoropicolinamide | 40.8 mmol, 23.7 g | C(C1=CC=CC=C1)(=O)NC=1SC[C@H]2[C@@](N1)(COC2)C=2C=C(C=CC2F)NC(C2=NC=C(C=C2)F)=O | C25H20F2N4O3S
reactant | o-methylhydroxylamine hydrochloride | 412 mmol, 34.4 g | CO[NH3+].[Cl-]
reactant | pyridine | 33.3 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 735 mL | C(C)O | C2H6O
product | N-(3-((4aS,7aS)-2-Amino-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-4-fluorophenyl)-5-fluoropicolinamide | 17.3 g, 100% | NC=1SC[C@H]2[C@@](N1)(COC2)C=2C=C(C=CC2F)NC(C2=NC=C(C=C2)F)=O | C18H16F2N4O2S
